US07589058B2
1-(2-pyridyldithio)decane was prepared by stirring 2,2′-dipyridyl disulfide (1.06 g, 4.8 mmol), 1-decanethiol (0.83 mL, 4 mmol) and triethylamine (2 mL) in propanol and acetonitrile ( 1/9, v/v) at room temperature for about 3 hours (See Carlsson et al., Biochem. J., 1978, 173, 723-737). Purification of the crude 1-(2-pyridyldithio)decane was performed using flash chromatography, eluting with a mixed solvent system of DCM/MeOH (10:0.4).

reactant | 2,2′-dipyridyl disulfide | 4.8 mmol, 1.06 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
reactant | 1-decanethiol | 4 mmol, 0.83 mL | C(CCCCCCCCC)S | C10H22S
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | propanol | C(CC)O | C3H8O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2-pyridyldithio)decane | N1=C(C=CC=C1)SSCCCCCCCCCC | C15H25NS2
